US05789598
In a four-necked flask was prepared a suspension of 22.9 g (0.1M) of ethyl (Z)-2-(2-amino-4-thiazolyl)-2-methoxyiminoacetate in 25 ml of dimethyl carbonate. To the suspension being stirred at 40° C. were added 0.12 g (1.0 mM) of N,N,N',N'-tetramethyl-1,2-ethylenediamine and 24.0 g (0.11M) of di-t-butyl dicarbonate. The mixture was stirred at room temperature for 15 hours. Thereto were added 50 ml of methanol and a solution of 31.7 g (0.79M) of sodium hydroxide dissolved in 50 ml of water. The mixture was stirred at 40° C. for 15 hours and cooled to room temperature. The resulting crystals were collected by filtration under a vacuum of about 100 mmHg using a filter paper having a pore diameter of 1 μm. The collected crystals were observed using a scanning type electron microscope, which indicated that the crystal grains had a diameter of 50 μm. The crystals were subjected to elemental analysis and atomic absorption spectrometry, which indicated that the crystals were sodium carbonate. The filtrate was neutralized with concentrated hydrochloric acid, which showed substantially no foaming and gave the maximum reaction product volume including the foam and the slurry of 130 ml. The solution was subjected to extraction with ethyl acetate and subsequent vacuum distillation for solvent removal, whereby was obtained 28.1 g (0.093M) of (Z)-2-(2-t-butoxycarbonylamino-4-thiazolyl)-2-methoxyiminoacetic acid at a yield of 93.3%.

reactant | ethyl (Z)-2-(2-amino-4-thiazolyl)-2-methoxyiminoacetate | 0.1M, 22.9 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC | C8H11N3O3S
reactant | di-t-butyl dicarbonate | 0.11M, 24.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydroxide | 0.79M, 31.7 g | [OH-].[Na+]
solvent | dimethyl carbonate | 25 ml | C(OC)(OC)=O | C3H6O3
solvent | water | 50 ml | O | H2O
catalyst | N,N,N',N'-tetramethyl-1,2-ethylenediamine | 1.0 mM, 0.12 g | CN(CCN(C)C)C | C6H16N2
product | (Z)-2-(2-t-butoxycarbonylamino-4-thiazolyl)-2-methoxyiminoacetic acid | 0.093M, 28.1 g, yield of 93.3% | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C11H15N3O5S
